US08633175B2
5-(4-formylphenyl)-3-pyridinecarboxamide
A mixture of 5-bromonicotinamide (0.201 g; 1.00 mmol), 4-formylphenyl boronic acid (0.180 g; 1.2 mmol), Pd(OAc)2 (0.0022 g; 0.010 mmol), S-Phos (0.0082 g; 0.020 mmol) and K2CO3 (0.345 g; 2.5 mmol) in n-butanol (3 mL) was sparged with nitrogen ca. 10 min, then heated at 80° C. for 1 h. Upon cooling, the mixture was poured into water, layered with Et2O and sonicated at room temperature ca. 5 min. Solid was collected by filtration, and the cake was air-dried on the filter, affording the title compound as a colorless solid which was used without further purification. LC/MS (method A) 1.57 min; m/z 227 (M+H).

reactant | 5-bromonicotinamide | 1.00 mmol, 0.201 g | BrC=1C=NC=C(C(=O)N)C1 | C6H5BrN2O
reactant | 4-formylphenyl boronic acid | 1.2 mmol, 0.180 g | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | S-Phos | 0.020 mmol, 0.0082 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | K2CO3 | 2.5 mmol, 0.345 g | C(=O)([O-])[O-].[K+].[K+]
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
catalyst | Pd(OAc)2 | 0.010 mmol, 0.0022 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(4-formylphenyl)-3-pyridinecarboxamide | C(=O)C1=CC=C(C=C1)C=1C=C(C=NC1)C(=O)N | C13H10N2O2
